US07074800B1
Fuming nitric acid (2.4 ml, 57.9 mmol) was added slowly at 0° C. to a solution of 3-methoxy-4-(3-(pyrrolidin-1-yl)propoxy)benzoic acid hydrochloride (12.15 g, 38.17 mmol) in TFA (40 ml). The cooling bath was removed and the reaction mixture stirred at ambient temperature for 1 hour. The TFA was removed by evaporation and ice/water was added to the residue and the solvent removed by evaporation. The solid residue was dissolved in dilute hydrochloric acid (pH2.2), poured onto a Diaion (trade mark of Mitsubishi) HP20SS resin column and eluted with methanol (gradient 0 to 50%) in water. Concentration of the fractions by evaporation gave a precipitate which was collected by filtration and dried under vacuum over phosphorus pentoxide to give 5-methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)benzoic acid hydrochloride (12.1 g, 90%).

reactant | nitric acid | 57.9 mmol, 2.4 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-methoxy-4-(3-(pyrrolidin-1-yl)propoxy)benzoic acid hydrochloride | 38.17 mmol, 12.15 g | Cl.COC=1C=C(C(=O)O)C=CC1OCCCN1CCCC1
solvent | TFA | 40 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)benzoic acid hydrochloride | 12.1 g, 90% | Cl.COC=1C(=CC(=C(C(=O)O)C1)[N+](=O)[O-])OCCCN1CCCC1 | InChI=1S/C15H20N2O6.ClH/c1-22-13-9-11(15(18)19)12(17(20)21)10-14(13)23-8-4-7-16-5-2-3-6-16;/h9-10H,2-8H2,1H3,(H,18,19);1H
